US05245051
7-[3-[(7-Hydroxy-2,3-dihydro-benzo[1,4]dioxin-2-ylmethyl)amino]propoxy]chromen-4-one
2,3-Dihydro-7-hydroxy-1,4-benzodioxin-2-methanamine hydrochloride (4.7 g, 22 mmole), 7-(3-bromopropoxy)chromen-4-one (6.1 g, 22 mmole) and diisopropylethylamine (18.8 ml, 108 mmole) were combined in 200 ml of DMF and heated at 80° C. for 24 hours under a nitrogen atmosphere. The solvent was then removed and replaced with dichloromethane. The mixture was washed with an equal volume of saturated aqueous sodium bicarbonate, with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuum. The residue was chromatographed on a silica gel column using first dichloromethane and then 5% methanol/dichloromethane as eluents. The fractions containing material with Rf=0.37 on silica gel tlc (chloroform/methanol/ammonia=95/5/1) were combined, concentrated, and the residual solid was recrystallized from ethanol with the addition of 4N isopropanolic HCl and ether to give 0.85 g of title compound as a light brown solid hydrochloride, quarter hydrate, m.p. 186°-189° C.

reactant | 2,3-Dihydro-7-hydroxy-1,4-benzodioxin-2-methanamine hydrochloride | 22 mmole, 4.7 g | Cl.OC=1C=CC2=C(OC(CO2)CN)C1
reactant | 7-(3-bromopropoxy)chromen-4-one | 22 mmole, 6.1 g | BrCCCOC1=CC=C2C(C=COC2=C1)=O | C12H11BrO3
reactant | diisopropylethylamine | 108 mmole, 18.8 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 7-[3-[(7-Hydroxy-2,3-dihydro-benzo[1,4]dioxin-2-ylmethyl)amino]propoxy]chromen-4-one | 0.85 g | OC=1C=CC2=C(OC(CO2)CNCCCOC2=CC=C3C(C=COC3=C2)=O)C1 | C21H21NO6
